US07915267B2
ethyl 4-oxo-5-(2-thienyl)-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxylate
Ethyl 5′-amino-2,3′-bithiophene-4′-carboxylate (3.00 g, 11.842 mmol) was suspended in 1N hydrogen chloride-acetic acid solution (30 mL), ethyl cyanoformate (1.29 g, 13.026 mmol) was added, and the mixture was stirred under heating at 90° C. for 2 hr. The reaction mixture was allowed to cool to room temperature, and concentrated under reduced pressure. The residue was suspended in diethyl ether, and the insoluble material was collected by filtration, washed with water to give the title compound as a brown powder (3.21 g, 88%).

reactant | Ethyl 5′-amino-2,3′-bithiophene-4′-carboxylate | 11.842 mmol, 3.00 g | NC1=C(C(=CS1)C=1SC=CC1)C(=O)OCC | C11H11NO2S2
reactant | ethyl cyanoformate | 13.026 mmol, 1.29 g | C(#N)C(=O)OCC | C4H5NO2
solvent | hydrogen chloride acetic acid | 1N, 30 mL | Cl.C(C)(=O)O
product | ethyl 4-oxo-5-(2-thienyl)-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxylate | 3.21 g, 88% | O=C1C2=C(N=C(N1)C(=O)OCC)SC=C2C=2SC=CC2 | C13H10N2O3S2
